US08134001B2
Preparation of intermediate 4-(2-hydroxy-ethoxy)-phenol
To a solution of 4-hydroxyphenoxyacetic acid (4.9 g, 29 mmol) (Aldrich) in anhydrous tetrahydrofuran (30 mL) at 0° C. was added borane tetrahydrofuran (1 M, 90 mL, 90 mmol) dropwise. The reaction mixture was then stirred at room temperature for 2 h. The mixture was concentrated and residue was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over MgSO4, and concentrated to give title compound as a yellow oil (4.2 g, 94%)

reactant | 4-hydroxyphenoxyacetic acid | 29 mmol, 4.9 g | OC1=CC=C(OCC(=O)O)C=C1 | C8H8O4
reactant | borane tetrahydrofuran | 90 mmol, 1 M, 90 mL | O1CCCC1.B
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(2-hydroxy-ethoxy)-phenol | 4.2 g, 94% | OCCOC1=CC=C(C=C1)O | C8H10O3
